US07053089B2
4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine
4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (0.5 g, 0.0015 mol) and trifluoroacetic acid (5 mL) were allowed to stir under nitrogen for 0.5 h. The reaction was concentrated in vacuo, and chromatographed on silica using methylene chloride/methanol/ammonium hydroxide (90/10/2) to give the title compound. M.S.(M+1): 223.

reactant | 4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.0015 mol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1OC | C16H26N4O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine | COC=1C(=NC=CN1)NCC1CCNCC1 | C11H18N4O
